US06492372B1
A 2-chloropyrimidine was dissolved in isopropyl alcohol to which was added diisopropylamine. The reaction was heated in a sealed tube for ten days at 130° C. The cooled reaction mixture was concentrated, and the product purified via silica gel column chromatography to yield the 2-isopropoxypyrimidine.

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-isopropoxypyrimidine | C(C)(C)OC1=NC=CC=N1 | C7H10N2O
